US07288541B2
To a 0° C. solution of 25.3 g (189 mmol) of (2S)-3,3-dimethyl-1,2,4-butanetriol in 170 mL of pyridine was added dropwise 29.1 mL (378 mmol) of methanesulfonyl chloride. The reaction mixture was allowed to warm slowly to room temperature, and was stirred for 18 h. It was then diluted with dichloromethane. To the resulting solution was added 200 mL of 1 N hydrochloric acid, followed by enough concentrated hydrochloric acid to acidify the aqueous phase (pH=2). The mixture was extracted with dichloromethane, and the combined extracts were washed with brine and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with acetone:dichloromethane (1:9) to afford 21.75 g (52%) of (2S)-2-hydroxy-3,3-dimethyl-4-[(methylsulfonyl)oxy]butyl methanesulfonate. 1H-NMR (300 MHz, DMSO-d6): δ 5.48 (d, J=6 Hz, 1H), 4.30 (dd, J=3 Hz, J=10 Hz, 1H), 4.05–3.91 (m, 3H), 3.16 (d, J=4 Hz, 6H), 0.90 (d, J=13 Hz, 6H).

reactant | (2S)-3,3-dimethyl-1,2,4-butanetriol | 189 mmol, 25.3 g | CC([C@@H](CO)O)(CO)C | C6H14O3
reactant | methanesulfonyl chloride | 378 mmol, 29.1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1 N, 200 mL | Cl | ClH
solvent | pyridine | 170 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2S)-2-hydroxy-3,3-dimethyl-4-[(methylsulfonyl)oxy]butyl methanesulfonate | 21.75 g, 52% | CS(=O)(=O)OC[C@H](C(COS(=O)(=O)C)(C)C)O | C8H18O7S2
